US04234585
In a manner analogous to that described in Example 5, by the reaction of 4-methyl-6-hydroxy-2-oxo-1,2-dihydroquinoline with 3-[4-(4-tert.-butylbenzyl)-piperazin-1-yl]-propyl chloride, there is obtained 4-methyl-6-{3-[4-(4-tert.-butylbenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline which, after recrystallization from ethyl acetate, melts at 171°-172° C.

reactant | 4-methyl-6-hydroxy-2-oxo-1,2-dihydroquinoline | CC1=CC(NC2=CC=C(C=C12)O)=O | C10H9NO2
reactant | 3-[4-(4-tert.-butylbenzyl)-piperazin-1-yl]-propyl chloride | C(C)(C)(C)C1=CC=C(CN2CCN(CC2)CCCCl)C=C1 | C18H29ClN2
product | 4-methyl-6-{3-[4-(4-tert.-butylbenzyl)-piperazin-1-yl]-propoxy}-2-oxo-1,2-dihydroquinoline | CC1=CC(NC2=CC=C(C=C12)OCCCN1CCN(CC1)CC1=CC=C(C=C1)C(C)(C)C)=O | C28H37N3O2
